US07662841B2
Ethyl isocyanoacetate (0.9 ml, 8.2 mmol) was gradually added dropwise to a suspension of sodium hydride (60% in mineral oil, 378 mg, 9.4 mmol) in N,N-dimethylformamide (5 ml) in an argon atmosphere under ice cooling. The mixture was stirred at the same temperature for 2 hr. This solution was added dropwise to a solution of 2,5-dibromothiazole (1.0 g, 4.1 mmol) in tetrahydrofuran (13 ml) cooled to −20° C. (brine/ice water) through a cannula over a period of 20 min, and, while allowing the temperature to rise to around 0° C., the mixture was stirred for 2 hr. After the completion of the reaction, saturated brine was added thereto, and the mixture was extracted with ethyl acetate (20 ml×5). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was washed with ethyl acetate to give ethyl 2-bromoimidazo[5,1-b]thiazole-7-carboxylate. The solvent was removed from the ethyl acetate washing liquor by distillation, and the residue was purified by chromatography on silica gel (hexane:ethyl acetate=1:2). The resultant purification product was combined with the crystal prepared above to give ethyl 2-bromoimidazo[5,1-b]thiazole-7-carboxylate (1.1 g, 90%) as a white solid.

reactant | Ethyl isocyanoacetate | 8.2 mmol, 0.9 ml | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | sodium hydride | 9.4 mmol, 378 mg | [H-].[Na+]
reactant | 2,5-dibromothiazole | 4.1 mmol, 1.0 g | BrC=1SC(=CN1)Br | C3HBr2NS
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | ethyl 2-bromoimidazo[5,1-b]thiazole-7-carboxylate | BrC1=CN2C(S1)=C(N=C2)C(=O)OCC | C8H7BrN2O2S
